US07851634B2
c) 6-Bromo-imidazo[1,2-a]pyrimidine
50 mmol of 5-bromo-pyrimidin-2-ylamine are dissolved in 200 ml of saturated aqueous sodium hydrogencarbonate solution. 55 mmol of chloroacetaldehyde are added to the reaction mixture and the mixture is stirred for 24 hours at 25° C. The mixture is extracted with ethyl acetate (3×300 ml) and the combined extracts are dried over sodium sulphate and evaporated under reduced pressure. Flash chromatography (SiO2 60 F) of the residue provides the title compound which is identified on the basis of its Rf-value.

reactant | 5-bromo-pyrimidin-2-ylamine | 50 mmol | BrC=1C=NC(=NC1)N | C4H4BrN3
reactant | chloroacetaldehyde | 55 mmol | ClCC=O | C2H3ClO
solvent | sodium hydrogencarbonate | 200 ml | C(O)([O-])=O.[Na+]
product | 6-Bromo-imidazo[1,2-a]pyrimidine | BrC=1C=NC=2N(C1)C=CN2 | C6H4BrN3
